US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-pyridin-3-ylethyl)formamide
Sodium hydride (55% in oil) (52 mg) was suspended in DMF(7 ml), and cooled to 0° C. in an ice water bath. N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(1H-indazol-3-yl)-N-(2-pyridin-3-ylethyl)acetamide(210 mg) was added thereto at the same temperature, and the mixture was stirred at 0° C. for 30 minutes followed at room temperature for 30 minutes. Methyl iodide(0.03 ml) was added thereto, and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was dried over sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=85:15). The purified product was condensed to dryness to give the title compound(17 mg) as a pale yellow white amorphous.

reactant | Sodium hydride | 52 mg | [H-].[Na+]
reactant | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-2-(1H-indazol-3-yl)-N-(2-pyridin-3-ylethyl)acetamide | 210 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C(CC2=NNC1=CC=CC=C21)=O)CCC=2C=NC=CC2 | C31H34N6O3
reactant | Methyl iodide | 0.03 ml | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-pyridin-3-ylethyl)formamide | 17 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(C=O)CCC=2C=NC=CC2 | C23H28N4O3
